US04060691
When an equivalent quantity of methyl 7-(3(RS)-hydroxy-5-oxocyclopent-1-en--yl)heptanoate is substituted for the methyl 7-(3(S)-hydroxy-5-oxocyclopent-1-en-1-yl)-heptanoate and the procedure detailed in Part A substantially repeated, there is obtained methyl 7-(3(RS)-tetrahydropyran-2-yloxy-5-oxocyclopent-1-en-1-yl)heptanoate.

reactant | methyl 7-(3(RS)-hydroxy-5-oxocyclopent-1-en--yl)heptanoate | OC1C=C(C(C1)=O)CCCCCCC(=O)OC | C13H20O4
reactant | methyl 7-(3(S)-hydroxy-5-oxocyclopent-1-en-1-yl)-heptanoate | O[C@@H]1C=C(C(C1)=O)CCCCCCC(=O)OC | C13H20O4
product | methyl 7-(3(RS)-tetrahydropyran-2-yloxy-5-oxocyclopent-1-en-1-yl)heptanoate | O1C(CCCC1)OC1C=C(C(C1)=O)CCCCCCC(=O)OC | C18H28O5
